US08865726B2
A solution of (S)-tert-butyl 4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoate (0.148 g, 0.312 mmol) in DCM (1.5 mL) was treated with trifluoroacetic acid (0.7 mL) at ambient temperature and stirring continued for 3 hours. The solvent was concentrated and the residue taken in water, neutralized with 1N NaOH carefully and suspended solids collected by filtration to afford (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)b enzoic acid (0.081 g, 62% yield).

reactant | (S)-tert-butyl 4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoate | 0.312 mmol, 0.148 g | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)OC(C)(C)C)C=C2 | C26H23FN4O4
reactant | trifluoroacetic acid | 0.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)b enzoic acid | 0.081 g, 62% yield | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)O)C=C2 | C22H15FN4O4
